US07534788B2
Step 3: 5-Hydroxy-benzofuran-2-carboxylic acid ethyl ester
The above prepared 5-methoxy-benzofuran-2-carboxylic acid ethyl ester (8.10 g, 36.8 mmol) was dissolved in 250 mL of CH2Cl2, cooled to 0° C., and treated with BBr3 (73.6 mL of 1M solution in CH2Cl2, 2 eq.). After 2 h, the reaction mixture was carefully poured onto crashed ice, twofold extracted with CH2Cl2, washed with brine, dried over magnesium sulfate, and evaporated to dryness. Ensuing flash chromatography (SiO2, hexane/AcOEt=8/2) delivered then 5.63 g of the title compound as off-white crystals.

reactant | 5-methoxy-benzofuran-2-carboxylic acid ethyl ester | 36.8 mmol, 8.10 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OC | C12H12O4
reactant | BBr3 | 1M, 73.6 mL, 2 eq. | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)O | C11H10O4
